US20010047105A1
Following the procedure described for Example 5, Step A, the anion derived 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-fluoro-phenyl)-butyl]-pyrrolidin-2-one (250 mg, 0.684 mmol) and NaHMDS (1M in THF, 0.80 mL, 0.80 mmol) was alkylated with 7-bromoheptanenitrile (142 mg, 0.748 mmol) at 70° C. for 72 h. Purification by medium pressure chromatography (1:1 hexanes:EtOAc to EtOAc to 5% MeOH in CH2Cl2) provided 7-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-fluoro-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile (261.7 mg). 1H NMR (CDCl3) δ7.26 (m, 1H), 6.92 (m, 3H), 3.89 (m, 1H), 3.59 (m, 2H), 2.89 (m, 1H), 2.75 (m, 2H), 2.36 (m, 4H), 2.11 (m, 1H), 1.72-1.26 (m, 13H), 0.89 (s, 9H), 0.09 (s, 6H); MS 475.3 (M+1).

reactant | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-fluoro-phenyl)-butyl]-pyrrolidin-2-one | 0.684 mmol, 250 mg | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)F)(C)C | C20H32FNO2Si
reactant | NaHMDS | 0.80 mmol, 1M, 0.80 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 7-bromoheptanenitrile | 0.748 mmol, 142 mg | BrCCCCCCC#N | C7H12BrN
product | 7-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-fluoro-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile | 261.7 mg | C(C)(C)(C)[Si](OC(CCC1N(C(CC1)=O)CCCCCCC#N)CC1=CC(=CC=C1)F)(C)C | C27H43FN2O2Si
